US06015885
In an aqueous solvent, 23.9 parts of 7-amino-4-hydroxynaphthalene-2-sulfonic acid was condensed with 10.0 parts of succinic anhydride according to a normal method to obtain a naphthol derivative.

reactant | 7-amino-4-hydroxynaphthalene-2-sulfonic acid | NC1=CC=C2C(=CC(=CC2=C1)S(=O)(=O)O)O | C10H9NO4S
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | naphthol | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
